US04853404
A suspension of 8.35 g of 2,3-dichloro-4-(1-methyl-5-pyrazolylcarbonyl)phenol, 5.59 g of allyl bromide and 10.64 g of potassium carbonate in acetone is refluxed for 3 hours. The reaction mixture is filtered and the filtrate is evaporated to remove solvent. The residue is dissolved in toluene, and the solution is treated with activated charcoal and then evaporated to give 8.36 g of (2,3-dichloro-4-allyloxyphenyl)(1-methyl-5-pyrazolyl)methanone.

reactant | 2,3-dichloro-4-(1-methyl-5-pyrazolylcarbonyl)phenol | 8.35 g | ClC1=C(C=CC(=C1Cl)C(=O)C1=CC=NN1C)O | C11H8Cl2N2O2
reactant | allyl bromide | 5.59 g | C(C=C)Br | C3H5Br
reactant | potassium carbonate | 10.64 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | (2,3-dichloro-4-allyloxyphenyl)(1-methyl-5-pyrazolyl)methanone | 8.36 g | ClC1=C(C=CC(=C1Cl)OCC=C)C(=O)C1=CC=NN1C | C14H12Cl2N2O2
